US05104890
To a solution of trans-4-[N-[1-(cyanoimino)propyl]amino]-3,4-dihydro-2,2-dimethyl-3-hydroxy-2H-1-benzopyran-6-carbonitrile (1.49 g) in dry pyridine (7.5 ml) was added dropwise mesyl chloride (0.77 g) under ice-water cooling. The resulting mixture was stirred overnight at room temperature and concentrated under reduced pressure. The residue was dissolved in a mixture of ethyl acetate and washed with 5% hydrochloric acid (twice), aqueous sodium bicarbonate and brine, successively. The organic layer was dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue was recrystallized from ethanol to give trans-4-[N-[1-(cyanoimino)propyl]amino]-3,4-dihydro-2,2-dimethyl-3-mesyloxy-2H-1-benzopyran-6-carbonitrile (1.50 g).

reactant | trans-4-[N-[1-(cyanoimino)propyl]amino]-3,4-dihydro-2,2-dimethyl-3-hydroxy-2H-1-benzopyran-6-carbonitrile | 1.49 g | C(#N)N=C(CC)N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)O | C16H18N4O2
reactant | mesyl chloride | 0.77 g | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | pyridine | 7.5 ml | N1=CC=CC=C1 | C5H5N
product | trans-4-[N-[1-(cyanoimino)propyl]amino]-3,4-dihydro-2,2-dimethyl-3-mesyloxy-2H-1-benzopyran-6-carbonitrile | 1.50 g | C(#N)N=C(CC)N[C@H]1[C@@H](C(OC2=C1C=C(C=C2)C#N)(C)C)OS(=O)(=O)C | C17H20N4O4S
